US04618683
3a,4,5,9b-Tetrahydro-6,7-dimethoxy-2,9-dimethyl-1H-benz[e]isoindole-1,3-(2H)-dione
A solution of 3a,4,5,9b-tetrahydro-6,7-dimethoxy-9-methyl-1H-benz[e]isoindole-1,3-(2H)-dione (1.66 g, 6.1 mmole) and dry DMF (28 mL) was stirred under N2 at 0° as a suspension of NaH (60% in oil, washed with hexane, 0.25 g, 6.4 mmole) and DMF (2.8 mL) was added portionwise. The reaction mixture was stirred for 0.5 hour at 0°, and for 0.5 hour at room temperature, then was cooled again at 0° as methyliodide (9.41 mL, 6.6 mmole) was added dropwise. After one hour at 0° and 1.5 hours at room temperature, the reaction mixture was poured onto ice water. The solid was filtered, washed with water, dried (in vacuo) to yield 1.60 g yellow solid (91%), mp 167°-9° C.; M+ 289.

reactant | 3a,4,5,9b-tetrahydro-6,7-dimethoxy-9-methyl-1H-benz[e]isoindole-1,3-(2H)-dione | 6.1 mmole, 1.66 g | COC1=C(C=C(C=2C3C(NC(C3CCC21)=O)=O)C)OC | C15H17NO4
reactant | NaH | 6.4 mmole, 0.25 g | [H-].[Na+]
reactant | methyliodide | 6.6 mmole, 9.41 mL | CI | CH3I
solvent | DMF | 2.8 mL | CN(C)C=O | C3H7NO
solvent | DMF | 28 mL | CN(C)C=O | C3H7NO
product | 3a,4,5,9b-Tetrahydro-6,7-dimethoxy-2,9-dimethyl-1H-benz[e]isoindole-1,3-(2H)-dione | 1.60 g, 91% | COC1=C(C=C(C=2C3C(N(C(C3CCC21)=O)C)=O)C)OC | C16H19NO4
